US05586001
In a 300-ml egg-plant type flask provided with cooling pipe for reflux, 17.5 g (0.1 mol) of m-xylylene dichloride was dissolved in 40 ml of toluene, and a solution of 28.0 g (0.22 mol) of sodium sulfite in 40 ml of distilled water was put into the flask. The mixture in the flask was heated in an oil bath kept at 130° C. under refluxing for 24 h, while the mixture was vigorously stirred with a magnetic stirrer using teflon-coated stirring pieces. After that the reaction mixture was cooled to room temperature, and a white precipitate was collected by filtration. The precipitate was dried under reduced pressure and purified by well washing with diethyl ether and then recrystallizing in a 2:1 mixture of water and methanol. The purified product was 16.5 g of sodium m-xylylenedisulfonate (53% yield). The sodium salt was dissolved in distilled water and passed through a column of an ion-exchange resin (Duolite C-20 of Wako Junyaku Co.) to obtain the aimed disulfonic acid.

reactant | m-xylylene dichloride | 0.1 mol, 17.5 g | C1(=CC(=CC=C1)CCl)CCl | C8H8Cl2
reactant | sodium sulfite | 0.22 mol, 28.0 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 40 ml | O | H2O
product | sodium m-xylylenedisulfonate | 16.5 g, 53% yield | C1(=CC(=CC=C1)CS(=O)(=O)[O-])CS(=O)(=O)[O-].[Na+].[Na+] | InChI=1S/C8H10O6S2.2Na/c9-15(10,11)5-7-2-1-3-8(4-7)6-16(12,13)14;;/h1-4H,5-6H2,(H,9,10,11)(H,12,13,14);;/q;2*+1/p-2
